US04288244
Into a 200 ml four-necked flask, there were charged benzene (100 ml), α,α-dimethylbenzylamine (9 g) and triethylamine (7.4 g), and α-bromo-tert-amylacetyl chloride (15.5 g) was dropwise added thereto while stirring at room temperature. Stirring was continued for 3 hours. After completion of the reaction, the reaction mixture was washed with water to remove triethylamine hydrochloride. After the benzene layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was recrystallized from ethanol to give 15.8 g of N-(α,α-dimethylbenzyl)-α-bromo-tert-amylacetamide. M.P., 136°-137° C.

reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | α,α-dimethylbenzylamine | 9 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | α-bromo-tert-amylacetyl chloride | 15.5 g | BrC(C(=O)Cl)C(C)(C)CC | C7H12BrClO
solvent | triethylamine | 7.4 g | C(C)N(CC)CC | C6H15N
product | N-(α,α-dimethylbenzyl)-α-bromo-tert-amylacetamide | 15.8 g | CC(C1=CC=CC=C1)(C)NC(C(Br)C(C)(C)CC)=O | C16H24BrNO
